* ADA4665-2 SPICE Macro-model Typical Values at Vsy=±8V
* Description: Amplifier
* Generic Desc: 5/16V, CMOS, OP, Low Pwr, RRIO, 2X
* Developed by: VW ADSJ
* Revision History: 08/10/2012 - Updated to new header style
* 0.2 (05/2009)
* Copyright 2009, 2012 by Analog Devices
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement.  Use of this model
* indicates your acceptance of the terms and provisions in the License Statement.
*
* BEGIN Notes:
* Not Modeled:
*    
* Parameters modeled include: Vsy = 16V, Ta = 25C
*
* END Notes
*
* Node Assignments
*			noninverting input
*			|	inverting input
*			|	|	 positive supply
*			|	|	 |	 negative supply
*			|	|	 |	 |	 output
*			|	|	 |	 |	 |
*			|	|	 |	 |	 |
.SUBCKT ADA4665-2	1	2	99	50	45
* 
* INPUT STAGE
*
M1  4  7  8  8 PIX L=2E-6 W=2.72e-4
M2  6  2  8  8 PIX L=2E-6 W=2.72e-4
M3  14  7 18 18 NIX L=2E-6 W=2.72e-4
M4  16  2 18 18 NIX L=2E-6 W=2.72e-4
Rd1 4 50 1.6E+4
Rd2 6 50 1.6E+4
Rd3 99 14 1.6E+4
Rd4 99 16 1.6E+4
C1  4 6 2.58E-12
C2  14 16 2.58E-12
I1  99  8 2.5E-5
I2  18 50 2.5E-5
V1  99  9 0.940
V2  19 50 0.940
D1   8  9 DX
D2  19 18 DX
EOS  7  1 POLY(4) (22,98) (73,98) (81,98) (83,98) 1e-3 1 1 1 1
IOS  1  2  0.05E-12

*
* CMRR
*
E1 72 98 POLY(2) (1,98) (2,98) 0 2.24e-3 2.24e-3
R10 72 73 3.98E1
R20 73 98 3.18e-1
C10 72 73 1E-6

*
* PSRR
*
EPSY 21 98 POLY(1) (99,50) -18.083 1.1302 
CPS3 21 22 1E-6
RPS1 21 22 3.18e3
RPS2 22 98 5.31E-2

*
* VOLTAGE NOISE REFERENCE 
*
VN1 80 98 0
RN1 80 98 16.45E-3
*HN  81 98 VN1 24.5
HN  81 98 VN1 25.5
RN2 81 98 1

*
* FLICKER NOISE 
*
DFN 82 98 DNOISE
VFN 82 98 DC 0.6551
HFN 83 98 POLY(1) VFN 1e-3 1
RFN 83 98 1

*
* INTERNAL VOLTAGE REFERENCE
*
EREF 98  0 POLY(2) (99,0) (50,0) 0 0.5 0.5
GSY  99 50 POLY(1) (99,50) 8.615e-5 4.95e-7 
EVP  97 98 (99,50) 0.5
EVN  51 98 (50,99) 0.5


*
* GAIN STAGE
*
G1 98 30 POLY(2) (4,6) (14,16) 0 3.54e-3 3.54e-3
R1 30 98 1e6
CF 31 30 1.99e-9
RZ 31 100 9
EZ 100 98 (45,98) 1
V3 32 30 3.35
V4 30 33 0.85
D3 32 97 DX
D4 51 33 DX

*
* OUTPUT STAGE
*
M5  45 46 99 99 POX L=3E-6 W=5.43E-4   
M6  45 47 50 50 NOX L=3E-6 W=1.197E-3  
EG1 99 46 POLY(1) (98,30) 7e-1 1
EG2 47 50 POLY(1) (30,98) 6e-1 1

*
* MODELS
*
.MODEL POX PMOS (LEVEL=2,KP=10E-6,VTO=-0.328,LAMBDA=0.02,RD=0)
.MODEL NOX NMOS (LEVEL=2,KP=10E-6,VTO=+0.328,LAMBDA=0.02,RD=0)
.MODEL PIX PMOS (LEVEL=2,KP=10E-6,VTO=-0.328,LAMBDA=0.02,TOX=100E-3)
.MODEL NIX NMOS (LEVEL=2,KP=10E-6,VTO=+0.328,LAMBDA=0.02,TOX=100E-3)
.MODEL DX D(IS=1E-14,RS=5,KF=1E-15)
.MODEL DNOISE D(IS=1E-14,RS=0,KF=3.94E-10)

.ENDS ADA4665-2
*
*$




